US06444701B1
Nonyl Isocyanate
A solution of decanoyl chloride (20 g, 104.8 mmoles) in acetone (30 ml) was dropped into a solution of sodium azide (9.53 g, 146.6 mmoles) in water (30 ml), cooled in an ice bath. The temperature of the azide solution was kept between 10 and 15° C. after one hour, the solution was transferred in a separatory funnel and the lower phase (the aqueous one) was eliminated. The higher phase was transferred into a flask containing 100 ml of toluene, previously warmed at 65° C. After 1.5 hours, the solution was evaporated to dryness, giving 13.37 g crude product, which after vacuum distillation gave 8.3 g pure product in the form of colorless liquid.

reactant | decanoyl chloride | 104.8 mmoles, 20 g | C(CCCCCCCCC)(=O)Cl | C10H19ClO
reactant | sodium azide | 146.6 mmoles, 9.53 g | [N-]=[N+]=[N-].[Na+]
reactant | azide | [N-]=[N+]=[N-]
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
reactant | acetone | 30 ml | CC(=O)C | C3H6O
solvent | water | 30 ml | O | H2O
product | Nonyl Isocyanate | 8.3 g, Yield 47% | C(CCCCCCCC)N=C=O | C10H19NO
